US04992433
To a stirred solution of 5.6 parts of 1-(6-chloro-3-pyridazinyl)-4-piperidinepropanol, 4.2 parts of ethyl 4-mercaptobenzoate and 6 parts of triphenylposphine in 135 parts of tetrahydrofuran was added dropwise a solution of 4 parts of diethyl diazenedicarboxylate in 45 parts of tetrahydrofuran at 20° C. Upon complete addition, stirring was continued overnight at this temperature. The reaction mixture was evaporated and the residue was taken up in water. The product was ectracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (99:1 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2,2'-oxybispropane. The product was filtered off and dried, yielding 1.3 parts (13.5%) of ethyl 4-[[3-[1-(6-chloro-3-pyridazinyl)-4-piperidinyl]propyl]thio]benzoate; mp. 96.3° C. (comp. 164).

reactant | 1-(6-chloro-3-pyridazinyl)-4-piperidinepropanol | ClC1=CC=C(N=N1)N1CCC(CC1)CCCO | C12H18ClN3O
reactant | ethyl 4-mercaptobenzoate | SC1=CC=C(C(=O)OCC)C=C1 | C9H10O2S
reactant | diethyl diazenedicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl 4-[[3-[1-(6-chloro-3-pyridazinyl)-4-piperidinyl]propyl]thio]benzoate | 13.5% | ClC1=CC=C(N=N1)N1CCC(CC1)CCCSC1=CC=C(C(=O)OCC)C=C1 | C21H26ClN3O2S
